US05506267
6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoic acid
A solution of 6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoic acid t-butyl ester as obtained in Reference Example 33 (1.22 g) in dichloromethane (2 ml)-trifluoroacetic acid (6 ml) was stirred at room temperature for 2 hours, after which the solvent was distilled off under reduced pressure, to yield the title compound (1.12 g, yield 99%) as a colorless oily substance.

reactant | 6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoic acid t-butyl ester | C(C)(C)(C)OC(CCSCC(COC(CCCCCCCCCCCC1=CC=CC=C1)=O)OC(CCCCCCCCCCCC1=CC=CC=C1)=O)=O | C46H72O6S
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 6,7-bis(12-phenyldodecanoyloxy)-4-thiaheptanoic acid | 1.12 g, yield 99% | C1(=CC=CC=C1)CCCCCCCCCCCC(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCC1=CC=CC=C1)=O | C42H64O6S
